US05296499
A solution of sodium nitrite (0.414 g) in water (2.0 ml) was dropwise added to a solution of 3,4-xylidine (0.61 g) in concentrated hydrochloric acid (1.5 ml) at a temperature of 0° C., followed by stirring for 30 minutes at 0° C. To the mixture were added sodium acetate (1.23 g) and methyl 2-(3,4-dimethoxybenzyl)acetoacetate (1.33 g). After stirring for an hour at room temperature, the reaction mixture was poured into water and extracted with ethyl ether. The ethereal layer was washed with a saturated sodium hydrogencarbonate aqueous solution and water, dried (MgSO4) and concentrated under reduced pressure. The residue was dissolved in methanol (20 ml), to which 1N-KOH methanolic solution (5 ml) was dropwise added at 0° C. After stirring for an hour at 0° C., the resultant mixture was neutralized with acetic acid and poured into water. The precipitate was collected by filtration and recrystallized from acetone-methanol to give methyl 3-(3,4-dimethoxyphenyl)-2-(3,4 -dimethylphenylhydrazino)propionate (1.25 g, 70%) as pale red prisms.

reactant | sodium nitrite | 0.414 g | N(=O)[O-].[Na+]
reactant | 3,4-xylidine | 0.61 g | NC1=CC(=C(C=C1)C)C | C8H11N
reactant | sodium acetate | 1.23 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2-(3,4-dimethoxybenzyl)acetoacetate | 1.33 g | COC=1C=C(CC(C(=O)OC)C(=O)C)C=CC1OC | C14H18O5
solvent | water | 2.0 ml | O | H2O
solvent | hydrochloric acid | 1.5 ml | Cl | ClH
product | methyl 3-(3,4-dimethoxyphenyl)-2-(3,4 -dimethylphenylhydrazino)propionate | 1.25 g, 70% | COC=1C=C(C=CC1OC)CC(C(=O)OC)NNC1=CC(=C(C=C1)C)C | C20H26N2O4
